US04909829
To a stirred solution of 15.0 g (0.096 mole) of 1-(2-fluoro-4-nitrophenyl)-4-(3-fluoropropyl)-1,4-dihydro-5H-tetrazol-5-one in 200 mL of glacial acetic acid and 10 mL of water, heated at 45° C., was added portionwise 15.0 g (0.27 mole) of iron powder. The reaction mixture was allowed to cool to room temperature and stir for approximately two hours. This mixture was filtered through a pad of Celite filter aid. The filtrate was diluted with 200 mL of water, and the resultant mixture was extracted with diethyl ether. The organic extract was dried over anhydrous magnesium sulfate and was filtered. The filtrate was evaporated under reduced pressure leaving an oil. This oil was purified by column chromatography on silica gel, eluting with methylene chloride, to yield 12.4 g of 1-(4-amino-2-fluorophenyl)-4-(3-fluoropropyl)-1,4-dihydro-5H- tetrazol-5-one as an oil.

reactant | 1-(2-fluoro-4-nitrophenyl)-4-(3-fluoropropyl)-1,4-dihydro-5H-tetrazol-5-one | 0.096 mole, 15.0 g | FC1=C(C=CC(=C1)[N+](=O)[O-])N1N=NN(C1=O)CCCF | C10H9F2N5O3
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
solvent | water | 10 mL | O | H2O
catalyst | iron | 0.27 mole, 15.0 g | [Fe] | Fe
product | 1-(4-amino-2-fluorophenyl)-4-(3-fluoropropyl)-1,4-dihydro-5H- tetrazol-5-one | 12.4 g | NC1=CC(=C(C=C1)N1N=NN(C1=O)CCCF)F | C10H11F2N5O
